US07632838B2
2-{4-[(3,4-dichlorophenyl)sulfonyl]piperidin-1-yl}quinoline
Using the procedure from Example 7A, Step 7E, 4-[(3,4-dichlorophenyl)sulfonyl]piperidine (150 mg, 0.51 mmol) was reacted with 2-chloroquinoline (328 mg, 2.0 mmol) to afford the title compound (39 mg), a white solid, in 18% yield.

reactant | 4-[(3,4-dichlorophenyl)sulfonyl]piperidine | 0.51 mmol, 150 mg | ClC=1C=C(C=CC1Cl)S(=O)(=O)C1CCNCC1 | C11H13Cl2NO2S
reactant | 2-chloroquinoline | 2.0 mmol, 328 mg | ClC1=NC2=CC=CC=C2C=C1 | C9H6ClN
product | 2-{4-[(3,4-dichlorophenyl)sulfonyl]piperidin-1-yl}quinoline | 39 mg, 18% yield | ClC=1C=C(C=CC1Cl)S(=O)(=O)C1CCN(CC1)C1=NC2=CC=CC=C2C=C1 | C20H18Cl2N2O2S
